data/mechanisms/records/IMS4-EQ4.42.json
{"mechanism_id": "IMS4-EQ4.42", "species": [{"species_id": "chloroalkane_radical_cation", "mapped_smiles": "[CH3:1][CH2:2][CH2:3][CH2:4][CH2:5][Cl+:6]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "tetramethylene_chloronium_ion", "mapped_smiles": "[CH2:2]1[CH2:3][CH2:4][CH2:5][Cl+:6]1", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "expelled_alkyl_radical_R", "mapped_smiles": "[CH3:1]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["chloroalkane_radical_cation"]}, {"state_id": "state_products", "species_ids": ["tetramethylene_chloronium_ion", "expelled_alkyl_radical_R"]}], "steps": [{"step_id": "step_displacement", "from_state": "state_precursor", "to_state": "state_products", "step_class": "displacement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "radical_orbital", "atom_maps": [6]}, "target": {"type": "bond", "atom_maps": [2, 6]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "bond", "atom_maps": [2, 6]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "atom", "atom_maps": [1]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_displacement", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_displacement", "support_type": "textbook_proposed", "locator": {"page": 78, "equation": "4.42", "figure": null, "panel": null, "section": "4.9"}, "confidence": 0.8, "curator_note": "Radical-site displacement/cyclization (rd): the terminal chlorine radical cation Cl+. forms a new C-Cl bond to the delta-carbon, displacing an alkyl radical R. and producing a five-membered divalent chloronium ion. Book draws 2 arc(s); moves 2,3 are drawn (the two electrons of the breaking C-R bond: one squiggle-arc into the forming C-Cl bond, one arc onto the departing R.), move 1 is an implicit homolysis hook (the Cl+. odd electron pairing into the new C-Cl bond) required for electron balance (not drawn on the page)."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "electron ionization", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 106.0538, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_chloronium", "species_id": "tetramethylene_chloronium_ion", "step_id": "step_displacement", "observed_mz": 91.0304, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.6}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-25T00:00:00Z", "modified_at": "2026-07-25T00:00:00Z"}}
